US04269788
Preparation of N,N-dimethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine
23.1 g. of biphenyl in 200 ml. of ether are added to 300 ml. of condensed, dry ammonia and then 2.1 g. of lithium wire (about 2 cm long pieces, de-greased with cyclohexane) are subsequently added at -40° C. over a period of 15 minutes. The mixture is then held at boiling temperature (about -33° C.) for 2 hours. Subsequently, 7.2 g. of 2-chloro-N,N-dimethylethylamine hydrochloride are rapidly added portionwise at about -70° C. The mixture is again warmed to boiling temperature and held at this temperature for 0.5 hour. After the subsequent addition of ammonium chloride, distillation of the ammonia and aqueous working-up, an oily product is obtained. After purification by chromatography on a 20-fold amount of silica gel using methylene chloride/methanol (10:1) for the elution, the resulting N,N-dimethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine is converted into the (1:1)-maleate as described in Example 1.

reactant | biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | ammonia | N | H3N
reactant | lithium | [Li] | Li
reactant | 2-chloro-N,N-dimethylethylamine hydrochloride | Cl.ClCCN(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | CCOCC | C4H10O
product | N,N-dimethyl-1-phenyl-2,5-cyclohexadien-1-ethylamine | CN(CCC1(C=CCC=C1)C1=CC=CC=C1)C | C16H21N
